datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC(C)(CC)[NH2+:21][H:20].OCc1cc[n:10]cc1>>CCC(C)(CC)[NH2:21].OCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CC(C)=CC(=O)[O:21][H:20].O=C([O-])CCC#CC#CCC[NH2:10]>>CC(C)=CC(=O)[O-:21].O=C([O-])CCC#CC#CCC[NH2+:10][H:20] 10=20;20,21=21",
"CC[NH+](CC)CCCCC(C)Nc1c2cc(OC)ccc2[n:10]c2cc(Cl)ccc12.N[C@@H]1C[C@@H]1[NH2+:21][H:20]>>CC[NH+](CC)CCCCC(C)Nc1c2cc(OC)ccc2[n+:10]([H:20])c2cc(Cl)ccc12.N[C@@H]1C[C@@H]1[NH2:21] 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccncc1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccncc1)[H:20] 10=20;20,21=21",
"CC(C)(C[NH3+])C[NH2:10].COc1ccc([N:21](C(=S)c2cccc(Br)c2)[H:20])cc1>>CC(C)(C[NH3+])C[NH2+:10][H:20].COc1ccc([N-:21]C(=S)c2cccc(Br)c2)cc1 10=20;20,21=21",
"CC(O)C[NH:10]CCN.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(O)C[NH+:10](CCN)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1cc(-c2ccccc2)n[n+](CC[N+:21]2([H:20])CCOCC2)c1N.c1c[n:10]cc2c1CCCC2>>Cc1cc(-c2ccccc2)n[n+](CC[N:21]2CCOCC2)c1N.c1c[n+:10]([H:20])cc2c1CCCC2 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCNCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCNCC[NH2+:10][H:20] 10=20;20,21=21",
"CC1C[NH:10]CC[NH2+]1.C[N+:21](C)(CCC/N=C(\c1ccccc1)c1ccccc1O)[H:20]>>CC1C[NH+:10]([H:20])CC[NH2+]1.C[N:21](C)CCC/N=C(\c1ccccc1)c1ccccc1O 10=20;20,21=21",
"C[NH:10]CCc1ccc(O)c(O)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+:10](CCc1ccc(O)c(O)c1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2+:21][H:20].[NH3+]C1CC(=O)[N-:10]C1=O>>CC(C)C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2:21].[NH3+]C1CC(=O)[N:10]([H:20])C1=O 10=20;20,21=21",
"CC[N:10](CC)Cc1cc([N+](=O)[O-])c2ccccc2c1[O-].O=C(c1ccco1)[O:21][H:20]>>CC[N+:10](CC)(Cc1cc([N+](=O)[O-])c2ccccc2c1[O-])[H:20].O=C(c1ccco1)[O-:21] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2ncncc2[n-:10]1.O=C([O-])C(Cc1c[nH]c2ccccc12)[NH2+:21][H:20]>>COc1cc(S(C)=O)ccc1-c1nc2ncncc2[n:10]1[H:20].O=C([O-])C(Cc1c[nH]c2ccccc12)[NH2:21] 10=20;20,21=21",
"CC1CCCC[N:10]1C.CCN(CC)c1sc(-c2ccccc2)n[n+:21]1[H:20]>>CC1CCCC[N+:10]1(C)[H:20].CCN(CC)c1sc(-c2ccccc2)n[n:21]1 10=20;20,21=21",
"COc1ccc(C(=S)[N-:10]c2ccc(OC)cc2)cc1.O=[N+]([O-])c1ccc2c(c1)nc[n:21]2[H:20]>>COc1ccc(C(=S)[N:10](c2ccc(OC)cc2)[H:20])cc1.O=[N+]([O-])c1ccc2c(c1)nc[n-:21]2 10=20;20,21=21",
"NCCCCCCCCCCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>NCCCCCCCCCCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1ccc(C(=O)[N-:10]S(=O)(=O)c2ccc(N)cc2)cc1C.O=C([O-])c1cc([O-])[n+:21]([H:20])c([O-])[n+]1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>Cc1ccc(C(=O)[N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])cc1C.O=C([O-])c1cc([O-])[n:21]c([O-])[n+]1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"Cc1cc(/N=N/c2ccc(S(=O)(=O)[NH-:10])cc2)cc(C(=O)[O-])c1O.O=[N+]([O-])c1ccc([NH+:21](O)[H:20])cc1>>Cc1cc(/N=N/c2ccc(S(=O)(=O)[NH:10][H:20])cc2)cc(C(=O)[O-])c1O.O=[N+]([O-])c1ccc([NH:21]O)cc1 10=20;20,21=21",
"C[N:10](C)CCNCCN.O=C1C=COC(C(=O)[O:21][H:20])=C1>>C[N+:10](C)(CCNCCN)[H:20].O=C1C=COC(C(=O)[O-:21])=C1 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N:10]1CCCCCC1.CN(C)c1ccc([N+:21](C)(C)[H:20])cc1>>CC(C=C(c1cccs1)c1cccs1)[N+:10]1([H:20])CCCCCC1.CN(C)c1ccc([N:21](C)C)cc1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH+:21](CCCC)[H:20].CCCCC[NH:10]Cc1ccc(C)cc1>>C=C(C)C(=O)OCC[NH:21]CCCC.CCCCC[NH+:10](Cc1ccc(C)cc1)[H:20] 10=20;20,21=21",
"C=CC(=O)NC(C)(C)CC[N+:21](CC)(CC)[H:20].c1ccc2cc3cc([O-:10])ccc3cc2c1>>C=CC(=O)NC(C)(C)CC[N:21](CC)CC.c1ccc2cc3cc([O:10][H:20])ccc3cc2c1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.c1ccc(C2CCC[NH:10]2)cc1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.c1ccc(C2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CCC(O)C[N+:21](CCO)(C(C)(C)C)[H:20].N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2:10]>>CCC(O)C[N:21](CCO)C(C)(C)C.N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CCOc1ccc(C(=O)[O:21][H:20])c(C)c1.Nc1c2ccccc2[n:10]c2c1ccc1c([N+](=O)[O-])cccc12>>CCOc1ccc(C(=O)[O-:21])c(C)c1.Nc1c2ccccc2[n+:10]([H:20])c2c1ccc1c([N+](=O)[O-])cccc12 10=20;20,21=21",
"CC[NH+:21](c1ccccc1)[H:20].c1ccc(CO[n+]2ccc([O-:10])cc2)cc1>>CC[NH:21]c1ccccc1.c1ccc(CO[n+]2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"CC1CCCC[NH:10]1.C[NH+]1C[C@@H](C(=O)[O:21][H:20])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12>>CC1CCCC[NH+:10]1[H:20].C[NH+]1C[C@@H](C(=O)[O-:21])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12 10=20;20,21=21",
"CC[NH+:21](Cl)[H:20].CCc1[nH]c2ccccc2[n:10]1>>CC[NH:21]Cl.CCc1[nH]c2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"CC/C(=N/[O-:10])C(C)=O.Nc1cccc2[nH]c(Cc3ccccc3)[n+:21]([H:20])c12>>CC/C(=N/[O:10][H:20])C(C)=O.Nc1cccc2[nH]c(Cc3ccccc3)[n:21]c12 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCC(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
